US05191109
1,6-Dicarbomethoxy-3-hexyne (20.0 g, content; 83.9 0.0847 mole) is dissolved in methanol (40 g) and the mixture is cooled to 5° C. To the mixture is added 2 N anhydrous barium hydroxide (33.9 g) and the mixture is stirred. After stirring for 17 hours, the reaction mixture is filtered, and dried under reduced pressure. The resulting crystal is suspended in 1,2-dichloroethane (100 g) and thereto are added 10 % hydrochloric acid (16 g) and water (50 g). The reaction temperature is raised to 40°-45° C., and the mixture is stirred for 2 hours and then separated. The organic layer is washed with water (50 g) and concentrated under reduced pressure to give 6-methoxycarbonyl-1-carboxy-3-hexyne [VI-1] (12.5 g, yield; 80.2%),

reactant | 1,6-Dicarbomethoxy-3-hexyne | 0.0847 mole, 20.0 g | C(=O)(OC)CCC#CCCC(=O)OC | C10H14O4
reactant | barium hydroxide | 2 N, 33.9 g | [OH-].[Ba+2].[OH-]
solvent | methanol | 40 g | CO | CH4O
product | 6-methoxycarbonyl-1-carboxy-3-hexyne | 12.5 g, yield; 80.2% | COC(=O)CCC#CCCC(=O)O | C9H12O4
